US07220856B2
Preparation of 5-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-methylquinoline
5-Chloro-2-methyl-4-(piperazin-1-yl)quinoline (0.18 g, 0.7 mmol), 4-fluorophenyl isocyanate (91 μL, 0.8 mmol), and DMAP (5 mg) in CH2Cl2 (10 mL) are reacted according to method C yielding the product as a colorless solid after column chromatography with hexane-EtOAc.

reactant | 5-Chloro-2-methyl-4-(piperazin-1-yl)quinoline | 0.7 mmol, 0.18 g | ClC1=C2C(=CC(=NC2=CC=C1)C)N1CCNCC1 | C14H16ClN3
reactant | 4-fluorophenyl isocyanate | 0.8 mmol, 91 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]-2-methylquinoline | ClC1=C2C(=CC(=NC2=CC=C1)C)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C21H20ClFN4O
